US07399775B2
4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)tetrahydrothiopyran-1-on
In dichloromethane (30 ml) was dissolved 4-[(4-chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)tetrahydrothiopyran (200 mg, 0.508 mmol). Under ice cooling, 3-chloroperbenzoic acid (106 mg, 0.614 mmol) was added. After stirring at room temperature for 14 hours, the reaction mixture was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel chromatography, and the fraction obtained from the hexane:ethyl acetate=1:1 eluate was concentrated under reduced pressure to give a white solid. The white solid was washed with diethyl ether, whereby the title compound (163 mg, 0.403 mmol, 79%) was obtained as a white powder.

reactant | 4-[(4-chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)tetrahydrothiopyran | 0.508 mmol, 200 mg | ClC1=CC=C(C=C1)S(=O)(=O)C1(CCSCC1)C1=C(C=CC(=C1)F)F | C17H15ClF2O2S2
reactant | 3-chloroperbenzoic acid | 0.614 mmol, 106 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | hexane | CCCCCC | C6H14
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[(4-Chlorophenyl)sulfonyl]-4-(2,5-difluorophenyl)tetrahydrothiopyran-1-on | 0.403 mmol, 163 mg, 79% | ClC1=CC=C(C=C1)S(=O)(=O)C1(CCS(CC1)=O)C1=C(C=CC(=C1)F)F | C17H15ClF2O3S2
